*****************************************************************
* NXP BUK9K17-60E
*
* Polarity N-Channel
* Ratings 60V/1.750000E-002OHMS/36.5A
*
* Date Created Mon Jan 28 07:43:18 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K17-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 8571428571.42857 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0112750795002662 TC=0.00576129224614244,3.57108582065898E-05
RBD 9 4 0.00168799437924079 TC=0.00576129224614244,3.57108582065898E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 8000000000
CGS 2 6 1.557e-09
RG 1 2 2.23459376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1716.03
+ -10	1713.67
+ -8	1710.26
+ -6	1704.47
+ -5	1699.56
+ -4	1691.39
+ -3	1669.34
+ -2	1456.79
+ -1	899.703
+ -0.5	596.339
+ -0.2	403.022
+ -0.1	399.019
+ 0	327.81412
+ 0.1	267.33888
+ 0.2	267.0798
+ 0.5	229.3294
+ 1	195.12888
+ 2	152.25996
+ 3	134.09924
+ 4	125.3766
+ 5	120.08492
+ 6	116.45288
+ 8	111.46296
+ 10	107.86068
+ 12	104.84636
+ 15	100.87921
+ 16	99.6026
+ 20	95.2214
+ 25	90.60194
+ 30	86.89006
+ 40	81.50853
+ 48	78.45689



.MODEL MINT NMOS(Vto=2.01899843833181 Kp=1.313501e+002 Nfs=350000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=3.03981508640823e-12
+ N=1 M=0.57 VJ=0.54 Fc=0.5 Cjo=6.1720636e-10 Tt=1.2936e-08)

.ENDS

